US05780498
A stirred solution of 3-[4-(3-thienyl)phenyl]-alanine methyl ester (650 mg) and triethylamine (1.64 g, 11.8 mmol) in 1,4-dioxane (10 ml) is added 3,5-dimethylbenzoyl chloride (517 mg, 3.07 mmol) at room temperature. The mixture is stirred at room temperature overnight. The reaction mixture is diluted with ether and washed with 1N hydrochloric acid, sat. sodium bicarbonate and water. The organic layer is dried over magnesium sulfate and concentrated in vacuo. The residue is chromatographed on silica with ethyl acetate/hexane (1:2) to give N-(3,5-dimethylbenzoyl)-2-methyl-3-[4-(3-thienyl)phenyl]alanine methyl ester.

reactant | 3-[4-(3-thienyl)phenyl]-alanine methyl ester | 650 mg | COC([C@@H](N)CC1=CC=C(C=C1)C1=CSC=C1)=O | C14H15NO2S
reactant | triethylamine | 11.8 mmol, 1.64 g | C(C)N(CC)CC | C6H15N
reactant | 3,5-dimethylbenzoyl chloride | 3.07 mmol, 517 mg | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | N-(3,5-dimethylbenzoyl)-2-methyl-3-[4-(3-thienyl)phenyl]alanine methyl ester | COC([C@@](NC(C1=CC(=CC(=C1)C)C)=O)(CC1=CC=C(C=C1)C1=CSC=C1)C)=O | C24H25NO3S
